US05378718
3,5-Diethoxycarbonyl-2,6-dimethyl-4-[4-(2-nitroxy-ethoxy)phenyl]-1,4-dihydropyridine
A solution of 5 g of 4-(2-nitroxyethoxy)benzaldehyde and 6.1 g of ethyl 3-aminocrotonate in 100 ml of ethanol was refluxed for 20 hours.

reactant | 4-(2-nitroxyethoxy)benzaldehyde | 5 g | O([N+](=O)[O-])CCOC1=CC=C(C=O)C=C1 | C9H9NO5
reactant | ethyl 3-aminocrotonate | 6.1 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3,5-Diethoxycarbonyl-2,6-dimethyl-4-[4-(2-nitroxy-ethoxy)phenyl]-1,4-dihydropyridine | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)OCCO[N+](=O)[O-])C(=O)OCC)C)C | C21H26N2O8
